US07196099B2
Isoserine (3.11 g, 29.6 mmol) was dissolved in 1,4-dioxane/H2O 3:1 (40 mL). K2CO3 (0.5 g) and NaHCO3 (0.5 g) was added. Di-tert-butyl dicarbonate (6.45 g, 29.6 mmol) was added and the mixture was stirred at ambient temperature over night. The reaction mixture was extracted with dichloromethane (3×100 mL). The combined organic phases were washed with brine, dried with MgSO4, and evaporated under vacuum. The crude 3-tert-butoxycarbonylamino-2-hydroxy-propionic acid (4.76 g, 23.2 mmol) was obtained as a colorless oil, which solidified on standing, and was used without further purification.

reactant | Isoserine | 29.6 mmol, 3.11 g | NCC(O)C(=O)O | C3H7NO3
reactant | K2CO3 | 0.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 0.5 g | C(=O)(O)[O-].[Na+]
reactant | Di-tert-butyl dicarbonate | 29.6 mmol, 6.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane H2O | 40 mL | O1CCOCC1.O
product | 3-tert-butoxycarbonylamino-2-hydroxy-propionic acid | 23.2 mmol, 4.76 g | C(C)(C)(C)OC(=O)NCC(C(=O)O)O | C8H15NO5
